US07030128B2
To a cooled (−78° C.) solution of 3-bromo-7-([1,2,4]triazol-1-ylmethyl)-imidazo[1,2-α]pyrimidine (0.42 g, 1.50 mmol) in tetrahydrofuran (15 ml) was added isopropylmagnesium chloride (0.82 ml of a 2M solution in tetrahydrofuran, 2.37 mmol). Mixture was allowed to warm to −45° C. and stirring at this temperature was continued for 0.5 h. Mixture was recooled to −78° C., tributyltin chloride (0.47 ml, 1.72 mmol) added in a dropwise fashion, stirred for 10 min at −78° C. and then allowed to warm to ambient temperature. This process of Grignard formation with subsequent transmetallation to the stannane intermediate was repeated to encourage completion of the reaction giving 7-([1,2,4]triazol-1-ylmethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine as a solution in tetrahydrofuran (ca. 0.1M); m/z (ES+) 487, 489, 490 (M++H).

reactant | 3-bromo-7-([1,2,4]triazol-1-ylmethyl)-imidazo[1,2-α]pyrimidine | 1.50 mmol, 0.42 g | BrC1=CN=C2N1C=CC(=N2)CN2N=CN=C2 | C9H7BrN6
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tributyltin chloride | 1.72 mmol, 0.47 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | stannane | [SnH4]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | ca. 0.1M | O1CCCC1 | C4H8O
product | 7-([1,2,4]triazol-1-ylmethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine | N1(N=CN=C1)CC1=NC=2N(C=C1)C(=CN2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H7N6.3C4H9.Sn/c1-3-14-4-2-11-9(14)13-8(1)5-15-7-10-6-12-15;3*1-3-4-2;/h1-3,6-7H,5H2;3*1,3-4H2,2H3;
